US06235771B1
In DMF (195 ml) was dissolved 2-(4-bromophenoxy)-1-ethanol (19. 5 g). To the mixture was added under ice-cooling 65% sodium hydride (5.3 g), and the mixture was stirred at room temperature for 2 hours. To the mixture was added dropwise iodohexane (19.9 ml), and the mixture was stirred for 2 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to give 1-bromo-4-(2-hexyloxyethoxy)benzene (16.2 g).

reactant | 2-(4-bromophenoxy)-1-ethanol | 5 g | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
reactant | sodium hydride | 5.3 g | [H-].[Na+]
reactant | iodohexane | 19.9 ml | ICCCCCC | C6H13I
reactant | water | O | H2O
solvent | DMF | 195 ml | CN(C)C=O | C3H7NO
product | 1-bromo-4-(2-hexyloxyethoxy)benzene | 16.2 g | BrC1=CC=C(C=C1)OCCOCCCCCC | C14H21BrO2
